resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.994653
R2 0 n2 1.003019
R3 0 n4 1.004998
R4 n1 n3 1.002826
R5 n1 n5 0.988824
R6 n2 n3 0.989139
R7 n2 n6 0.997653
R8 n3 n7 20.681761
R9 n4 n5 0.102914
R10 n4 n6 0.983177
R11 n5 n7 0.983894
R12 n6 n7 0.980388
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
